US09290476B2
2-(4-(Trifluoromethyl)benzyl)malonic acid
To a 2 L flask containing 2,2-dimethyl-5-(4-(trifluoromethyl)benzyl)-1,3-dioxane-4,6-dione (65 g, 215 mmol, Intermediate 47: step a) was added a TFA/water solution (v/v, 560 mL/280 mL) at room temperature and the white suspension was heated between 70° C. and 78° C. in a large oil bath. The suspension did not dissolve until a temperature of 72° C. was reached. After approximately 40 minutes, the suspension became a clear homogeneous solution. After 3 hours, HPLC indicated that the reaction was complete. The mixture was concentrated on the rotary evaporator and azeotroped with toluene (4×100 mL) to give white solid which was used without further purification.

reactant | 2,2-dimethyl-5-(4-(trifluoromethyl)benzyl)-1,3-dioxane-4,6-dione | CC1(OC(C(C(O1)=O)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C14H13F3O4
solvent | TFA water | 560 mL | C(=O)(C(F)(F)F)O.O
product | 2-(4-(Trifluoromethyl)benzyl)malonic acid | FC(C1=CC=C(CC(C(=O)O)C(=O)O)C=C1)(F)F | C11H9F3O4
